Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
morphine / heparin / sirolimus
 
Attending: ___
 
Chief Complaint:
abdominal pain, nausea, vomiting, diarrhea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with history of kidney transplant in ___ polycystic 
kidney disease presenting with abdominal pain, vomiting, and 
diarrhea.  Patient was recently
admitted to ___ three weeks ago for laparoscopic hernia repair
with mesh.  She did well postoperatively, although she does have
a shallow non-healing wound on her abdomen at one of the 
incision
sites, which appeared stable and non-infected when Dr. ___
her in clinic one week ago.

Patient was in her usual state of health until yesterday ___,
when she ate a casserole at 2 p.m.  Immediately afterwards, she
began experiencing abdominal pain, nausea, and non-bloody
non-bilious vomiting.  She was vomiting every five minutes for
about four hours.  She also began to have watery non-bloody
diarrhea.  In addition, she felt intermittent fevers and chills
associated with the vomiting.  Abdominal pain was constant and
did not get better after vomiting.  She presented to the ED at 
an
OSH, and while in the waiting room, she began to feel better. 
She was able to drink a bottle of water and urinate well, so she
decided to go home.  She started eating the BRAT diet that
evening, tolerating it without difficulty.  However, she woke up
at 4 a.m. today ___ and had severe abdominal pain and vomiting
again.  She decided to come to the ___ ED.

Of note, patient has not urinated yet today, and she saw stars
and felt faint this morning while walking around (but did not
pass out).

ED COURSE 
-Initial vitals: 98.0 108 123/76 19 98% RA 
-Exam: Abd tenderness to all quadrants
-Labs: CBC, LFTs, lipase within normal limits, increased BUN/SCr
34/2.3, hemolyzed K 5.5, HCO3 17 
-Imaging: Unremarkable CXR and Abd XR 
-Patient given: 1L LR, Zofran x 1
-Consults: renal transplant, transplant surgery

In the ED, patient was evaluated by transplant surgery, who felt
there was a very low concern for acute surgical process.  They
recommended wet-to-dry dressing for her shallow abdominal wound.

REVIEW OF SYSTEMS: Positive per HPI, remaining 10 point ROS
reviewed and negative.
 
Past Medical History:
PAST MEDICAL HISTORY 
-ESRD secondary to polycystic kidney disease
-Hyperthyroidism s/p RAI 
-Post ablative hypothyroidism 
-Heparin induced thrombocytopenia 
-Skin cancers 
-Hyperlipidemia 
-Hypertension 
-Anxiety 
-Avulsion fracture of ankle (___) 
-Norovirus infection (___) 

PAST SURGICAL HISTORY 
-Laparoscopic umbilical hernia repair with mesh (___)
-___ surgery scalp (___) 
-Bilateral nephrectomy (___)  
-Renal transplant (___) 
 
Social History:
___
Family History:
-PCKD mother (+aneurysm) and sister
-___ cancer
-CAD in father
 
Physical ___:
ADMISSION PHYSICAL EXAM:
========================
VS: T 98.3 BP 122/81 HR 96 RR 18 O2 sat 100% RA
GENERAL: NAD, overweight woman sitting comfortably
HEENT: AT/NC, anicteric sclera, pink conjunctiva, mucous
membranes dry 
HEART: RRR, S1/S2, no murmurs, gallops, or rubs
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
ABDOMEN: nondistended, normoactive bowel sounds, mild epigastric
tenderness to palpation, no rebound/guarding
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: warm and well-perfused
NEURO: alert and oriented to situation, conversational, language
fluent, moving all 4 extremities with purpose
SKIN: small 1-cm open wound with minimal surrounding erythema, 
no
purulent drainage, covered with wet-to-dry dressing and bandaid. 

Areas of redness outlining previous tegaderm placement.

DISCHARGE PHYSICAL EXAM:
========================
VS: T 98.4 BP 142/84 HR 81 RR 18 O2sat 98% RA
GENERAL: NAD, overweight woman sitting comfortably
HEENT: AT/NC, anicteric sclera, pink conjunctiva
HEART: RRR, S1/S2, no murmurs, gallops, or rubs
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
ABDOMEN: nondistended, normoactive bowel sounds, mild RUQ TTP 
(chronic per patient), no rebound/guarding
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: warm and well-perfused
NEURO: alert and oriented to situation, conversational, language
fluent, CN II-XII intact, strength ___ in upper and lower 
extremities, normal sensation
SKIN: shallow abdominal wound covered with gauze and bandaid, 
which was not removed. Areas of scabbing outlining previous 
tegaderm placement.
 
Pertinent Results:
ADMISSION LABS:  
==============
___ 01:04PM BLOOD WBC-9.4 RBC-3.98 Hgb-11.5 Hct-35.6 MCV-89 
MCH-28.9 MCHC-32.3 RDW-14.4 RDWSD-46.5* Plt ___
___ 01:04PM BLOOD Neuts-83.6* Lymphs-11.7* Monos-4.1* 
Eos-0.0* Baso-0.3 Im ___ AbsNeut-7.83* AbsLymp-1.10* 
AbsMono-0.38 AbsEos-0.00* AbsBaso-0.03
___ 01:04PM BLOOD Glucose-132* UreaN-34* Creat-2.3* Na-137 
K-5.5* Cl-102 HCO3-17* AnGap-18
___ 01:04PM BLOOD ALT-17 AST-32 AlkPhos-78 TotBili-0.8
___ 01:04PM BLOOD Lipase-20
___ 01:04PM BLOOD Albumin-4.1 Calcium-10.2 Phos-3.5 Mg-2.0
___ 08:14PM BLOOD K-3.8
  
INTERVAL LABS:  
=============
___ 05:42AM BLOOD WBC-4.0 RBC-2.95* Hgb-8.7* Hct-27.0* 
MCV-92 MCH-29.5 MCHC-32.2 RDW-14.3 RDWSD-48.1* Plt ___
___ 05:42AM BLOOD ___ PTT-27.9 ___
___ 05:42AM BLOOD Ret Aut-1.8 Abs Ret-0.05
___ 05:42AM BLOOD Glucose-93 UreaN-24* Creat-2.1* Na-145 
K-4.4 Cl-112* HCO3-17* AnGap-16
___ 05:42AM BLOOD LD(LDH)-181
___ 05:42AM BLOOD Calcium-9.0 Phos-3.5 Mg-1.8
___ 05:42AM BLOOD Hapto-346*
___ 05:42AM BLOOD tacroFK-5.6 rapmycn-4.2*
 
MICROBIOLOGY:  
=============
___ 7:55 pm BLOOD CULTURE

   Blood Culture, Routine (Pending):    No growth to date.

___ 2:00 am URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION.

___ 4:21 am BLOOD CULTURE

   Blood Culture, Routine (Pending):    No growth to date.

___ 4:17 am STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   C. difficile PCR (Final ___: 
      NEGATIVE. 
           (Reference Range-Negative). 
      The C. difficile PCR is highly sensitive for toxigenic 
strains of C.
      difficile and detects both C. difficile infection (CDI) 
and
      asymptomatic carriage. 
      A negative C. diff PCR test indicates a low likelihood of 
CDI or
      carriage.

___ 4:17 am STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

   OVA + PARASITES (Final ___: 
      NO OVA AND PARASITES SEEN. 
      This test does not reliably detect Cryptosporidium, 
Cyclospora or
      Microsporidium. While most cases of Giardia are detected 
by routine
      O+P, the Giardia antigen test may enhance detection when 
organisms
      are rare. 

   FECAL CULTURE - R/O VIBRIO (Final ___:    NO VIBRIO 
FOUND. 

   FECAL CULTURE - R/O YERSINIA (Final ___:    NO YERSINIA 
FOUND. 

   FECAL CULTURE - R/O E.COLI 0157:H7 (Final ___: 
      No E. coli O157:H7 found. 

___ 4:17 am STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

   VIRAL CULTURE (Preliminary):    NO VIRUS ISOLATED.

___ 3:14 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

   OVA + PARASITES (Pending): 

IMAGING/STUDIES:  
=============== 
___ Chest PA and Lateral
No acute cardiopulmonary process.

___ Abdomen supine and erect
Nonobstructive bowel gas pattern.  No free intraperitoneal air.

___ Renal transplant ultrasound
Normal renal transplant ultrasound.

___ CT abdomen/pelvis w/o IV contrast w/ oral contrast
1. The patient has had interval repair of an umbilical hernia. 
There is now a fluid collection in the subcutaneous tissues 
measuring 3.1 cm x 3.2 cm.  There is no significant surrounding 
fat stranding.  This likely represents a postoperative seroma.
2. There is a long segment of distal ileum, with circumferential 
wall
thickening, suggestive of enteritis.
3. New mild to moderate amount of ascites.
4. Innumerable liver cysts compatible with the patient's known 
history of
polycystic kidney disease.
 
DISCHARGE LABS:  
==============
___ 05:38AM BLOOD WBC-3.9* RBC-2.79* Hgb-8.2* Hct-25.4* 
MCV-91 MCH-29.4 MCHC-32.3 RDW-14.2 RDWSD-46.9* Plt ___
___ 05:38AM BLOOD ___ PTT-29.6 ___
___ 05:38AM BLOOD Glucose-95 UreaN-22* Creat-1.7* Na-143 
K-4.6 Cl-110* HCO3-21* AnGap-12
___ 05:38AM BLOOD Calcium-9.0 Phos-3.2 Mg-1.8
___ 05:38AM BLOOD tacroFK-5.8
 
Brief Hospital Course:
PATIENT SUMMARY
=====================
___ woman with h/o ESRD from polycystic kidney disease
s/p renal transplant (___) on sirolimus/tacrolimus, with recent
hernia repair, presenting with abdominal pain, nausea, and
non-bloody non-bilious vomiting, concerning for a viral 
gastroenteritis. The patient recovered with IV rehydration and 
symptomatic management.

ACTIVE ISSUES
=====================
#Abdominal pain, nausea/vomiting, a watery diarrhea
The patient most likely had infectious colitis, given her 
sudden-onset
watery diarrhea after eating heated frozen-food products. Given 
the patient's immunosuppressed status, parasitic/opportunistic 
infections were also considered, and a thorough work-up was 
performed. She had undetectable CMV viral load, and a negative 
C. diff
PCR. Bacterial colitis was considered very unlikely, as she did 
not have bloody diarrhea or fevers, and never had an elevated 
white count, so antibiotics were not started. Ischemic colitis 
was also considered unlikely. CT scan showed enteritis, and also 
demonstrated a post-operative seroma near her hernia repair 
site, with no concerning signs of infection or abscess. The 
patient clinically improved with symptomatic management - 
aggressive IV rehydration, Zofran PRN for nausea, and advancing 
diet as tolerated.

___
Creatinine on admission was 2.3, with baseline 1.3-1.6. 
Responded very well to IVF, and was 1.7 at time of discharge. 
___ was likely prerenal i/s/o large GI losses. Rejection or ATN 
were considered very unlikely, especially as her Cr improved 
with fluids. Lisinopril and HCTZ were held i/s/o ___ 
continue to hold on discharge; can be restarted pending 
resolution of her ___.

#Acute Anemia
Hemoglobin down-trended from 10.2 to 8.7 today, which was most 
likely
dilutional from her IVF administration, as no source of bleeding 
was ever identified, and no concerning findings were seen on CT.

#Ascites
Seen on CT abdomen/pelvis, most likely from IVF administration. 
LFTs normal; low concern for cirrhosis despite known polycystic 
liver.

#Immunosuppression
#Renal Transplant
Sirolimus was discontinued to promote wound healing from 
laproscopic surgical site from umbilical hernia repair. Patient 
was continued on tacrolimus 1.5 mg Q12H, and trough was 5.8. 
Goal trough is ___ in absence of sirolimus, but dose was not 
increased on this admission, as per the nephrology team there is 
still sufficient sirolimus residual level in her system. Her 
dose may need to be up-titrated as an outpatient to reach 
therapeutic levels, if trough continues to be less than 6.

CHRONIC ISSUES
======================
#Hypertension
- Held home lisinopril, hydrochlorothiazide in setting of ___ 
continue to hold on discharge. Restart upon resolution ___ 
per above.

#Hyperlipidemia
- continued pravastatin 20 mg daily

#Hypothyroidism: s/p radioiodine ablation
- continued home levothyroxine 88 mcg daily

#Anxiety/Insomnia
- continued home clonazepam 0.5 mg QHS PRN insomnia

#GERD
- continued home pantoprazole 40 mg Q24H

===================
TRANSITIONAL ISSUES
===================
#Renal Transplant
[]Discontinued sirolimus, to promote wound healing from her 
recent hernia surgery, restart when medically appropriate
[]F/u tacrolimus labs within 3 weeks, Dr. ___ will review and 
adjust levels to goal trough going forward. Will likely need 
up-titration, as goal trough is ___, but level was 5.8 on 
discharge. Did not increase during patient's hospitalization, as 
her sirolimus had just been discontinued.
#HTN
[]Held lisinopril and HCTZ due to ___, please resume as 
outpatient when Cr returns to baseline.
___
[]Please f/u repeat labs within 1 week, to confirm resolution of 
her ___
#Diarrhea
[]Stool ova and parasites still pending at time of discharge, we 
will f/u and contact PCP if anything returns positive
#Anemia: Hgb downtrending 11.5 -> 8.2 during admission, most 
likely dilutional as normal vital signs and no source of 
bleeding on CT with totally benign abdominal exam, as well as 
normal hemolysis labs.
[]Follow-up CBC as outpatient.

# CODE: FULL (confirmed)
# HEALTH CARE PROXY: sister, ___ ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ClonazePAM 0.5 mg PO QHS:PRN insomnia 
2. Hydrochlorothiazide 12.5 mg PO DAILY 
3. Levothyroxine Sodium 88 mcg PO DAILY 
4. Pantoprazole 40 mg PO Q24H 
5. Sirolimus 1.5 mg PO DAILY 
6. Aspirin 81 mg PO DAILY 
7. Lisinopril 20 mg PO DAILY 
8. Multivitamins 1 TAB PO DAILY 
9. Pravastatin 20 mg PO QPM 
10. Sodium Bicarbonate 650 mg PO BID 
11. Vitamin D ___ UNIT PO DAILY 
12. Tacrolimus 1.5 mg PO Q12H 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  ClonazePAM 0.5 mg PO QHS:PRN insomnia  
3.  Levothyroxine Sodium 88 mcg PO DAILY  
4.  Multivitamins 1 TAB PO DAILY  
5.  Pantoprazole 40 mg PO Q24H  
6.  Pravastatin 20 mg PO QPM  
7.  Sodium Bicarbonate 650 mg PO BID  
8.  Tacrolimus 1.5 mg PO Q12H  
9.  Vitamin D ___ UNIT PO DAILY  
10. HELD- Hydrochlorothiazide 12.5 mg PO DAILY  This medication 
was held. Do not restart Hydrochlorothiazide until you are told 
to restart by your healthcare provider
11. HELD- Lisinopril 20 mg PO DAILY  This medication was held. 
Do not restart Lisinopril until you are told to do so by your 
healthcare provider.
12. HELD- Sirolimus 1.5 mg PO DAILY  This medication was held. 
Do not restart Sirolimus until you are told to do so by your 
healthcare provider.
13.Outpatient Lab Work
Please check tacrolimus level within 1 week of discharge. 
ICD 9 Code 55.6 Kidney Transplantation 
Fax results to: ___, MD ___ 
14.Outpatient Lab Work
Please check BMP (Na, K, Cl, CO2, BUN, Cr, glucose) within 1 
week of discharge. ICD-9 Code 584.9 Acute kidney failure. 
Please fax results to: ___, MD ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
Viral gastroenteritis 
___

SECONDARY DIAGNOSIS
===================
ESRD from polycystic kidney disease, s/p renal transplant (___)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
 You were admitted to the hospital because of your abdominal 
pain, nausea, vomiting and diarrhea, which was most likely due 
to a viral infection of your digestive system. 

 WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL?  
 - You received IV fluids for rehydration.
 - We stopped your sirolimus, as we thought this was why your 
wounds from your hernia repair were not healing well. 
 - You improved and were ready to leave the hospital. 
 
 WHAT DO YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL?  
 - Take all of your medications as prescribed (listed below)  
 - Keep your follow up appointments with your doctors  
 - Weigh yourself every morning, before you eat or take your 
medications. Call your doctor if your weight changes by more 
than 3 pounds  
 - Please stick to a low salt diet and monitor your fluid intake 
 
 - If you experience any of the danger signs listed below please 
call your primary care doctor or come to the emergency 
department immediately.

 It was a pleasure participating in your care. We wish you the 
best!  
 - Your ___ Care Team 
 
Followup Instructions:
___